US06008230
A mixture of 4-chloro-8-(2,6-dichlorobenzoylamino)-3-ethoxycarbonylquinoline (200 mg), formamidine acetate (246 mg) and N-methylpyrrolidone was stirred for 4 hours at 100° C., for 45 minutes at 120° C. and for 6 hours at 130° C. The mixture was partitioned between water and ethyl acetate. The organic layer was washed with water and evaporated in vacuo. The residue was crystallized from isopropyl alcohol and collected by filtration to give 7-(2,6-dichlorobenzoylamino)-3,4-dihydropyrimido[5,4-c]quinolin-4-one (116 mg).

reactant | 4-chloro-8-(2,6-dichlorobenzoylamino)-3-ethoxycarbonylquinoline | 200 mg | ClC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)C(=O)OCC | C19H13Cl3N2O3
reactant | formamidine acetate | 246 mg | C(C)(=O)O.C(=N)N
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 7-(2,6-dichlorobenzoylamino)-3,4-dihydropyrimido[5,4-c]quinolin-4-one | 116 mg | ClC1=C(C(=O)NC2=CC=CC=3C4=C(C=NC23)C(NC=N4)=O)C(=CC=C1)Cl | C18H10Cl2N4O2
